Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematospermia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ ___ speaking man who is a smoker but without other 
PMH presented to PCP due to several weeks of blood in his semen. 
There his SBP was >200 and he was asymptomatic but sent to ED 
for further management.

He last saw a doctor about ___ year ago at ___. At that 
time he recalls SBP 150s, does not recall DBP. Not treated. In 
the interval, he denies other medical visits. Denies any acute 
medical concerns during that time, and only presented to 
___ due to blood in the sperm that he noted 2 weeks ago.

In the ED he did not have chest pain, dyspnea, vision changes, 
headache. 

In the ED, initial vitals:  97.7 89 237/149 18 99% RA 
- Labs were notable for:  BUN 28 / Cr 1.8, TnT <0.01, Urine 
Prot/Cr 1.5, negative urine tox, neg serum tox
- Imaging:  CXR done and did not show acute process, no pulm 
edema
- Patient was given:  ASA 325, started on Nitroglycerin gtt
- Consults: Cardiology who reviewed the EKG and did thought 
findings are that of LVH, clinically not concerned about MI 
(EKG: prominent precordial voltage with associated ST elevations 
especially in V2-V3 and Tw inversions in the apical and lateral 
leads)
 
On arrival to the MICU, he endorses the history above and 
confirms that he does not have headaches, chest pain, dyspnea, 
blood in his urine, or vision changes. No weight change, no skin 
concerns, no other acute medical problems recently.

 
Past Medical History:
- per OMR rectal fissure in ___
 
Social History:
___
Family History:
no siblings, both parents alive without medical problems
 
Physical Exam:
Admission exam
Vitals:  afebrile, 190s/110s, HR ___, SaO2 95%
GENERAL: Alert, oriented, no acute distress  
HEENT: normal tongue size, sclera anicteric, moist mucosa 
NECK: no thyromegaly, large neck 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Palpable LV Lift, Regular rate and rhythm, normal s1/s2, no 
s4  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: no pitting edema, good cap refill of nailbeds 
SKIN:  multiple freckles of the face, striae of the chest
NEURO:  fully oriented, moving all extreme, sits up on his own, 
normal speech, symmetry of face and extremities
ACCESS: PIV x 2 

Discharge exam:
___
Gen:  He appears very well, NAD
+ striae near axilla on anterior chest
CV: RRR
Lung:  CTA B
Abd:  Soft
Ext:  no edema
 
Pertinent Results:
Admission labs
___ 05:10PM BLOOD WBC-10.3* RBC-5.32 Hgb-15.0 Hct-45.1 
MCV-85 MCH-28.2 MCHC-33.3 RDW-13.0 RDWSD-39.3 Plt ___
___ 05:10PM BLOOD Neuts-64.1 ___ Monos-9.0 Eos-2.6 
Baso-0.5 Im ___ AbsNeut-6.62* AbsLymp-2.43 AbsMono-0.93* 
AbsEos-0.27 AbsBaso-0.05
___ 05:10PM BLOOD ___ PTT-29.2 ___
___ 05:10PM BLOOD Glucose-113* UreaN-28* Creat-1.8* Na-140 
K-3.6 Cl-100 HCO3-28 AnGap-16
___ 05:10PM BLOOD ALT-29 AST-20 LD(LDH)-329* AlkPhos-89 
TotBili-0.3
___ 05:10PM BLOOD Lipase-64*
___ 05:10PM BLOOD CK-MB-3
___ 05:10PM BLOOD cTropnT-<0.01
___ 09:43PM BLOOD cTropnT-<0.01
___ 05:10PM BLOOD Calcium-8.9 Phos-3.3 Mg-2.1
___ 05:10PM BLOOD TSH-1.7
___ 05:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Discharge Labs

___ 10:50AM BLOOD WBC-9.8 RBC-4.91 Hgb-14.1 Hct-41.9 MCV-85 
MCH-28.7 MCHC-33.7 RDW-13.0 RDWSD-39.9 Plt ___
___ 10:50AM BLOOD Glucose-128* UreaN-24* Creat-1.8* Na-138 
K-3.9 Cl-101 HCO3-27 AnGap-14

IMAGING/STUDIES:
- CXR ___
IMPRESSION:  
  Cardiac silhouette is top-normal to mildly enlarged, of note 
in a patient of this age.  No pulmonary edema. 

- Renal U/S/ ___
The right kidney measures 10 cm. The left kidney measures 11.9 
cm. There is no hydronephrosis, stones, or masses bilaterally.  
Normal cortical echogenicity and corticomedullary 
differentiation are seen bilaterally. 
  
Renal Doppler: Intrarenal arteries show normal waveforms with 
sharp systolic peaks and continuous antegrade diastolic flow. 
The resistive indices of the right intra renal arteries range 
from 0.64-0.65.   The resistive indices on the left range from 
0.61-0.64. Bilaterally, the main renal arteries are patent with 
normal waveforms. The peak systolic velocity on the right is 
36.1 centimeters/second. The peak systolic velocity on the left 
is 34.2 centimeters/second. Main renal veins are patent 
bilaterally with normal waveforms. 
  
The bladder is moderately well distended and normal in 
appearance. 
  
IMPRESSION:  
  
Normal renal ultrasound.  No evidence of renal artery stenosis 
or 
hydronephrosis. 

- CXR ___
IMPRESSION:  
The heart remains enlarged which may reflect cardiomegaly but 
pericardial 
effusion should also be considered.  Lungs are well inflated 
without evidence of focal airspace consolidation, pleural 
effusions or pneumothorax.  There is an appropriate amount of 
aeration projecting in the retrosternal region on the lateral 
view.  If a retrosternal mass remains of clinical concern, 
further imaging evaluation with CT may be helpful. 

- TTE ___
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. There is moderate symmetric left 
ventricular hypertrophy. The left ventricular cavity is mildly 
dilated. There is mild to moderate global left ventricular 
hypokinesis (LVEF = 40 %). No masses or thrombi are seen in the 
left ventricle. There is no ventricular septal defect. Right 
ventricular chamber size is normal with borderline normal free 
wall function. The diameters of aorta at the sinus, ascending 
and arch levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
mild pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion. There are no 
echocardiographic signs of tamponade. 

 IMPRESSION: Cardiomyopathy with increased wall thickness (dd 
includes HTN vs infiltrative disease (I.e. amyloid).  
 
Brief Hospital Course:
Summary
___ who presented to his PCP with two weeks of hematospermia 
then found to have a BP of 237/149 and renal impairment

# Hypertensive Emergency: BP 237/149 with renal impairment, 
proteinuria, hematospermia. Mental status is normal, no 
headache, neg TnT x 1.  ECHO Shows thickened LV and patient has 
been previously told that he has hypertension but he has not 
been compliant with medication.  Etiologies considered Drug use 
(tox screen neg), Endocrine (PCC-possible but pressures are not 
labile and not tachycardic, Cushings-possible given body 
habitus, Hyperaldo, Hyperthyroid), Renovascular (possible given 
asymmetric kidneys), Scleroderma (no cutaneous or other systemic 
findings), OSA. He was treated with nitroglycerin gtt, PO 
labetalol, and amlodipine with improvement in blood pressures to 
150-180 systolic. Nitroglycerin was stopped on ___ mid-day. 
Patient remained comfortable. He was transferred out of ICU on 
___ pm.

On the floor, his pressures continued to be well controlled, and 
on the day of discharge, he was put on amlodipine 10 mg and 
labetalol tapered down to 300 mg po bid.  As beta blockers may 
be poorly tolerated in young patients, the hope is that his bp 
can be managed with amlodipine and dietary changes.  If his 
creatinine improves, he should be started on an ace inhibitor.  
He has many lab tests pending to determine if his hypertension 
is due to secondary causes (cortisol, metanephrines, renin, 
aldosterone) and he can discuss the results of these with his 
nephrologist at followup.  It is possible that patient has 
poorly controlled essential hypertension.  His mother has htn; 
his heavy salt consumption (has nearly all of his meals at the 
___ restaurant where he works) and he may also have 
concomitant OSA which contributes.  He received nutritional 
counseling and should discuss with his PCP obtaining ___ sleep 
study as he was seen to be heavily snoring in the hospital.  

# Non oliguric Renal Impairment with elevated Prot/Cr - most 
recent BMP before today was about ___ year ago at ___ Cr 1.0 
then, 1.8 now. Renal ultrasound was negative for renal artery 
stenosis or hydronephrosis, though 1.8cm difference in size of 
kidneys may be due to stenosis despite negative imaging.  This 
should be further discussed at his nephrology f/u.  

# CXR read:  "There is  an appropriate amount of aeration 
projecting in the retrosternal region on the  lateral view.  If 
a retrosternal mass remains of clinical concern, further imaging 
evaluation with CT may be helpful."  CT scan was not done in the 
hospital as there was no concern for retrosternal mass.  

 
Medications on Admission:
 - none including no supplements
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Hypertension
2.  Chronic kidney disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with very high blood pressures.  We are doing 
many tests to find out whether you have high blood pressure due 
to genetic reasons or due to a different medical problem.   
Please avoid foods with salt.  If you reduce the salt in your 
diet you will need less blood pressure medication.  You will 
take the medication amlodipine 10 mg in the morning and the 
medicine labetalol twice a day (we initially told you 3 times a 
day but we needed to change the dose).  You will followup with 
the kidney doctors and your ___ regarding your treatment.  I 
have faxed your prescriptions to the Stop and Shop in ___.  
 
Followup Instructions:
___